US09079853B2
5-chloro-1-(3-morpholinopropyl)indoline-2,3-dione
This compound was prepared in a similar method as 1-propylindoline-2,3-dione by reacting commercially available 5-chloro isatin (purchase from Fisher Scientific) with the 4-(3-bromopropyl)morpholine. 1H NMR δ 7.57 (m, 2H), 6.98 (d, 1H), 3.82 (t, 2H), 3.64 (m, 4H), 2.41 (m, 6H), 1.87 (m, 2H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-chloro isatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 4-(3-bromopropyl)morpholine | BrCCCN1CCOCC1 | C7H14BrNO
product | 5-chloro-1-(3-morpholinopropyl)indoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCCN1CCOCC1)=O)=O | C15H17ClN2O3
